2132-11-22 07:54:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 11276**] PHYSICIAN PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
   hypotensive o/n, got 2000cc LR and 2500 NS w/ minimal improvement in
   BP, pt has been known to go into flash pulmn edema, did c/o some SOB
   O/N but lungs clear and SaO2 100%. SBPs high 80s, asx, doing well this
   AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2132-11-22**] 04:00 AM
   Ampicillin - [**2132-11-22**] 05:13 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-11-21**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-11-22**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.8
C (98.2
   HR: 68 (66 - 100) bpm
   BP: 94/48(59) {76/39(51) - 158/72(94)} mmHg
   RR: 15 (15 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,325 mL
                                                                  2,878 mL
   PO:
             TF:
   IVF:
                                                                  3,325 mL
                                                                  2,878 mL
   Blood products:
   Total out:
                                                                    630 mL
                                                                    220 mL
   Urine:
                                                                    630 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,695 mL
                                                                  2,658 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///17/
   Physical Examination
   GENERAL: elderly caucasian female, quite drowy but arousable.
   HEENT: Normocephalic, atraumatic. No scleral icterus. PERRLA/EOMI. MMM
   slightly dry.
   Neck:  Supple, No LAD. + murmur radiating to bilateral carotids
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. 2/6 systolic
   ejection murmur radiating to carotids. JVP= 7 cm
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. 5/5 strength throughout. [**1-18**]+ reflexes, equal BL. Normal
   coordination. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   127 K/uL
   10.3 g/dL
   121 mg/dL
   0.7 mg/dL
   17 mEq/L
   3.2 mEq/L
   17 mg/dL
   112 mEq/L
   137 mEq/L
   34.1 %
   21.3 K/uL
        [image002.jpg]
                             [**2132-11-21**]  03:21 PM
                             [**2132-11-22**]  04:41 AM
   WBC
   7.1
   21.3
   Hct
   37.0
   34.1
   Plt
   185
   127
   Cr
   0.6
   0.7
   Glucose
   108
   121
   Other labs: PT / PTT / INR:14.9/38.6/1.3, Differential-Neuts:71.0 %,
   Band:11.0 %, Lymph:4.0 %, Mono:4.0 %, Eos:0.0 %, Ca++:6.9 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 11297**] is a 80 year-old with new fevers and hypotension after
   urological manipulation with lithotripsy, likely due to urosepsis from
   disintegration of infected stone, now with some difficulty breathing,
   leukocytosis and non-anion cap hyperchloremic metabolic acidosis.
   .
   1. Urosepsis - hypotension has been resolving with fluid boluses
   -- hold IVF for now as to maintain MAP > 60
   -- antibiotic source control with ampicillin and gentamycin
   -- f/u urology recs re: abx and effect on renal function (trend Cr)
   -- follow-up urine culture and blood cultures
   -- tylenol for fevers
   -- zofran prn nausea
   2. Difficulty breathing- satting well on 3 L NC, could be [**2-18**]
   aggressive IVF hydration. Will monitor pt today, if continues to be
   afebrile, will consider 1x 10mg IV lasix
   3. Non-anion gap hyperchloremic metabolic acidosis- HCO3 is 17 today,
   Cl 112
 likely all from NS, as > 4 L given.
   -- continue to follow renal function
   -- likely will resolve as approaches euvolemia
   4. Leukocytosis - -- monitor daily CBC, likely due to post-operative
   inflammation.
   -- not on any meds that could cause BM suppression
   .
   #. Afib - coumadin has been on hold for procedure today
   -- holding coumadin until recovers and is ok'ed by urology.
   -- hold sotalol given hypotension
   -- restart ASA
   #. Hypertension
   -- hold lisinopril and HCTZ given hypotension
   .
   ICU Care
   Nutrition:  regular diet
   Glycemic Control:  well-controlled
   Lines:
   20 Gauge - [**2132-11-21**] 03:14 PM
   Prophylaxis:
   DVT:  SQ heparin
   Stress ulcer: n/a
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition: [**Hospital Unit Name 1**]
   ------ Protected Section ------
   MICU attending addendum:
   I have seen and examined the patient and concur with Dr [**Last Name (STitle) 11211**];s note
   above.
   Mrs [**Known lastname 11297**] developed SIRS after completion of her procedure yesterday
   and now appears to have resolving hypotension. She has received
   ampi./gent per urology staff recs and has clinical features of mild
   CHF. She is in NSR at this time.
   She may benefit from gentle lasix later today if SBP and temp curve are
   stable..
   She still needs ICU level care.
   [**First Name8 (NamePattern2) 3093**] [**Doctor Last Name **]. M.D.
   ------ Protected Section Addendum Entered By:[**Name (NI) 3093**] [**Name8 (MD) **], MD
   on:[**2132-11-22**] 02:08 PM ------

2132-11-23 06:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   The patient had a large UOP in response to 10mg dose of IV Lasix this
   AM.
   The patient became dyspneic after walking up and down the [**Doctor Last Name **].  She
   was also noted to be in afib with HR in 130-140s upon return to her
   room.  She was re-started on her outpt. Sotalol 80mg [**Hospital1 **].  She was also
   given 2 doses of Lopressor 5mg IV with some improvement in HRs.
   A couple of hours later, the patient had one soft "greenish" bowel
   movement.  She also became more hypotensive with SBP ~80.  She was
   given a single 500cc bolus of NS over 30 min.
   This AM, the pt continued to be tachycardic to 120-130s and was given
   IV Diltiazem 5mg x 2.  She reports feeling less SOB, but continues to
   complain of rleft flank pain precipitated by movement.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2132-11-23**] 04:00 AM
   Ampicillin - [**2132-11-23**] 06:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2132-11-22**] 12:30 PM
   Heparin Sodium (Prophylaxis) - [**2132-11-22**] 09:50 PM
   Metoprolol - [**2132-11-22**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-11-23**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.4
C (95.7
   HR: 127 (68 - 131) bpm
   BP: 117/72(85) {79/44(57) - 164/108(93)} mmHg
   RR: 18 (13 - 28) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  4,270 mL
                                                                    367 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  3,790 mL
                                                                    367 mL
   Blood products:
   Total out:
                                                                  2,470 mL
                                                                    260 mL
   Urine:
                                                                  2,470 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,800 mL
                                                                    107 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   GENERAL: elderly caucasian female, quite drowy but arousable.
   HEENT: Normocephalic, atraumatic. No scleral icterus. PERRLA/EOMI. MMM
   slightly dry.
   Neck:  Supple, No LAD. + murmur radiating to bilateral carotids
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. 2/6 systolic
   ejection murmur radiating to carotids. JVP= 7 cm
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. 5/5 strength throughout. [**1-18**]+ reflexes, equal BL. Normal
   coordination. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   107 K/uL
   10.6 g/dL
   113 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.3 mEq/L
   18 mg/dL
   110 mEq/L
   140 mEq/L
   33.8 %
   14.1 K/uL
        [image002.jpg]
                             [**2132-11-21**]  03:21 PM
                             [**2132-11-22**]  04:41 AM
                             [**2132-11-22**]  05:16 PM
                             [**2132-11-23**]  04:52 AM
   WBC
   7.1
   21.3
   14.1
   Hct
   37.0
   34.1
   33.8
   Plt
   185
   127
   107
   Cr
   0.6
   0.7
   0.7
   0.6
   Glucose
   108
   121
   128
   113
   Other labs: PT / PTT / INR:16.1/37.6/1.4, Differential-Neuts:71.0 %,
   Band:11.0 %, Lymph:4.0 %, Mono:4.0 %, Eos:0.0 %, Ca++:7.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.7 mg/dL
   Gent trough 1.8, Peak 5.5
   Blood cultures pending
   Assessment and Plan
   Ms. [**Known lastname 11297**] is a 80 year-old with new fevers and hypotension after
   urological manipulation with lithotripsy, likely due to urosepsis from
   disintegration of infected stone, now with some difficulty breathing,
   leukocytosis and non-anion cap hyperchloremic metabolic acidosis.
   .
   1. Urosepsis
 Leukocytosis has been resolving, the patient is afebrile
   -- IVF to maintain MAP > 60
   -- antibiotic source control with ampicillin and gentamycin
   -- f/u urology recs
   -- follow-up urine culture and blood cultures
   -- tylenol for fevers
   -- zofran prn nausea
   2. Difficulty breathing- satting well on 2 L NC, could be [**2-18**]
   aggressive IVF hydration. The patient is s/p diuresis yesterday, may
   have developed afib with RVR secondary to dehydration.  Will give back
   small IVF as needed to keep HR under control and hold further diuresis
   for now.
   3. Non-anion gap hyperchloremic metabolic acidosis- Resolved, HCO3 25
   today.
   -- continue to follow lytes
   .
   4.. Afib
 Re-started Sotalol.  The patient continues to be in afib
   with RVR.
   -- holding coumadin until recovers and is ok'ed by urology.
   -- re-started Sotalol
   --IV Dilt or Lopressor for BP control
   --IVF small boluses as needed for tachycardia or hypotension
   - F/u Troponins, CK, CK-MB given concern for demand ischemia in the
   setting of tachycardia.
   --Continue ASA
   5. Hypertension
   -- hold lisinopril and HCTZ given concern for hypotension
   ICU Care
   Nutrition:  regular diet
   Glycemic Control:  well-controlled
   Lines:
   20 Gauge - [**2132-11-21**] 03:14 PM
   Prophylaxis:
   DVT:  SQ heparin
   Stress ulcer: n/a
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition: [**Hospital Unit Name 1**]

2132-11-24 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Treated tachycardia with fluid boluses and IV diltiazem and metoprolol
   boluses
   -Got asingle dose of 0.5 mg of digoxin
   -Started diltiazem gtt for rate control
   This AM, the patient
s HR is in 70s-80s on dilt drip.  Dilt drip was
   d/c
d this morning.
   The patiet reports symptomatic improvement in SOB.  States her
   left-sided flank pain is improved as well.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2132-11-24**] 04:35 AM
   Ampicillin - [**2132-11-24**] 06:35 AM
   Infusions:
   Diltiazem - 5 mg/hour
   Other ICU medications:
   Diltiazem - [**2132-11-23**] 02:40 PM
   Metoprolol - [**2132-11-23**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2132-11-23**] 09:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-11-24**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.2
C (97.2
   HR: 88 (83 - 134) bpm
   BP: 154/95(103) {91/56(63) - 154/96(113)} mmHg
   RR: 16 (14 - 25) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,810 mL
                                                                    404 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                  2,090 mL
                                                                    404 mL
   Blood products:
   Total out:
                                                                  1,470 mL
                                                                    790 mL
   Urine:
                                                                  1,470 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,340 mL
                                                                   -386 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   GENERAL: pleasant elderly  female, alert, responsive, NAD
   HEENT: Normocephalic, atraumatic. No scleral icterus. PERRLA/EOMI. MMM
   slightly dry.
   Neck:  Supple, No LAD. + murmur radiating to bilateral carotids
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. 2/6 systolic
   ejection murmur radiating to carotids. JVP= 7 cm
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. 5/5 strength throughout. [**1-18**]+ reflexes, equal BL. Normal
   coordination. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   145 K/uL
   10.5 g/dL
   100 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.5 mEq/L
   13 mg/dL
   109 mEq/L
   142 mEq/L
   33.8 %
   18.7 K/uL
         [image002.jpg]
                             [**2132-11-21**]  03:21 PM
                             [**2132-11-22**]  04:41 AM
                             [**2132-11-22**]  05:16 PM
                             [**2132-11-23**]  04:52 AM
                             [**2132-11-23**]  10:45 PM
                             [**2132-11-24**]  04:44 AM
   WBC
   7.1
   21.3
   14.1
   18.7
   Hct
   37.0
   34.1
   33.8
   33.8
   Plt
   185
   127
   107
   145
   Cr
   0.6
   0.7
   0.7
   0.6
   0.5
   0.5
   TropT
   <0.01
   Glucose
   108
   121
   128
   113
   133
   100
   Other labs: PT / PTT / INR:13.3/31.3/1.1, CK / CKMB /
   Troponin-T:41//<0.01, Differential-Neuts:71.0 %, Band:11.0 %, Lymph:4.0
   %, Mono:4.0 %, Eos:0.0 %, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:1.3 mg/dL
   Urine and Blood Cultures Pending
   Assessment and Plan
   Ms. [**Known lastname 11297**] is a 80 year-old with new fevers and hypotension after
   urological manipulation with lithotripsy, likely due to urosepsis from
   disintegration of infected stone, now with some difficulty breathing,
   leukocytosis and non-anion cap hyperchloremic metabolic acidosis.
   .
   1. Urosepsis
 WBC somewhat increased today, the patient is afebrile ad
   normotensive.  CXR unremarkable,
   -- Blood, Sputum and Urine Cx
   -- antibiotic source control with ampicillin and gentamycin (day 4 of a
   7 day total course)
   -- f/u urology recs
   -- follow-up urine culture and blood cultures
   -- tylenol for fevers
   -- zofran prn nausea
   2. Difficulty breathing- satting well on 2 L NC, could be [**2-18**]
   aggressive IVF hydration. The patient is s/p diuresis yesterday, may
   have developed afib with RVR secondary to dehydration.  Will give back
   small IVF as needed to keep HR under control and hold further diuresis
   for now.
   3. Electrolyte disturbances
   -- check PO lytes and replete K, Mg and Phos as needed
   .
   4.. Afib
 Continue Sotalol.  The patient continues to be in afib with
   improved rate control.
   - D/c diltiazem gtt.  IV Lopressor or Dilt as needed for rate control.
   -- re-start Coumadin (confirm with Urology)
   -- Continue Sotalol and monitor HR closely
   --IVF small boluses as needed for tachycardia or hypotension
   --Continue ASA
   5. Hypertension
   -- hold lisinopril and HCTZ given concern for hypotension
   ICU Care
   Nutrition:
   Nutrition:  regular diet
   Glycemic Control:  well-controlled
   Lines:
   20 Gauge - [**2132-11-21**] 03:14 PM
   Prophylaxis:
   DVT:  SQ heparin
   Stress ulcer: n/a
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition: [**Hospital Unit Name 1**]

2132-11-24 11:10:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 y.o. woman with fever and hyypotension following lithotripsy and
   ureteral stent placement
   24 Hour Events:
                          History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2132-11-24**] 04:35 AM
   Ampicillin - [**2132-11-24**] 06:35 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2132-11-23**] 02:40 PM
   Metoprolol - [**2132-11-23**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2132-11-23**] 09:02 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2132-11-24**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.2
C (97.2
   HR: 73 (73 - 134) bpm
   BP: 119/64(79) {91/56(63) - 154/96(113)} mmHg
   RR: 15 (14 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,810 mL
                                                                    455 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                  2,090 mL
                                                                    455 mL
   Blood products:
   Total out:
                                                                  1,470 mL
                                                                  1,200 mL
   Urine:
                                                                  1,470 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,340 mL
                                                                   -745 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No(t) Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x 3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   145 K/uL
   100 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.5 mEq/L
   13 mg/dL
   109 mEq/L
   142 mEq/L
   33.8 %
   18.7 K/uL
        [image002.jpg]
                             [**2132-11-21**]  03:21 PM
                             [**2132-11-22**]  04:41 AM
                             [**2132-11-22**]  05:16 PM
                             [**2132-11-23**]  04:52 AM
                             [**2132-11-23**]  10:45 PM
                             [**2132-11-24**]  04:44 AM
   WBC
   7.1
   21.3
   14.1
   18.7
   Hct
   37.0
   34.1
   33.8
   33.8
   Plt
   185
   127
   107
   145
   Cr
   0.6
   0.7
   0.7
   0.6
   0.5
   0.5
   TropT
   <0.01
   Glucose
   108
   121
   128
   113
   133
   100
   Other labs: PT / PTT / INR:13.3/31.3/1.1, CK / CKMB /
   Troponin-T:41//<0.01, Differential-Neuts:71.0 %, Band:11.0 %, Lymph:4.0
   %, Mono:4.0 %, Eos:0.0 %, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:1.3 mg/dL
   Imaging: CXR:  haziness bilaterally, blunting left CPA, unchanged from
   prior day
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB):  Continued on the diltiazem drip
   overnight. Ont the monitor noted to have pauses, intermittently
   v-paced.  Denies chest pain.  On sodolol.  No further digoxin.   Will
   need to stay in the ICU on the monitor given pauses.  Discuss
   restarting coumadin with urology.
 NEPHROLITHIASIS (KIDNEY STONES):  Patient is status post lithotripsy
   and ureteral stent placement.  Urology following.
 SEPSIS WITHOUT ORGAN DYSFUNCTION:  Clinically appears improved, does
   not appear toxic.  WBC increased which is curious.  Will send repeat
   suveillance cultures.  CXR unchanged.  continue on broad spectrum
   antibiotics.  Check gent levels.
 HYPOKALEMIA:  Replete and follow up on chemistries.  Replete
   magnesium (Mg-1.8).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-11-21**] 03:14 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2132-11-25 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -HR has been in a-fib w/ rate 120s-140s O/N, also had SBP in 200s and
   c/o H/A.
   -Increased sotalol from 80mg [**Hospital1 7**] to 120mg [**Hospital1 7**] and gave lopressor 5mg IV
   x2 doses (one at [**2070**] one 0716)
   -last lasix dose at [**2053**] (will hold for now)
   - giving back small amts fluids in 250cc boluses to help control rate
   - pt also c/o dysuria, had bacteria, large amt leuks in U/A (has foley)
   and increasing WBC, gave pyridium for urinary analgesia.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2132-11-25**] 04:22 AM
   Ampicillin - [**2132-11-25**] 06:19 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2132-11-24**] 07:30 PM
   Metoprolol - [**2132-11-24**] 08:10 PM
   Heparin Sodium (Prophylaxis) - [**2132-11-24**] 09:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-11-25**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 129 (68 - 129) bpm
   BP: 113/57(84) {104/57(70) - 200/129(151)} mmHg
   RR: 19 (14 - 30) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 66.8 kg (admission): 64.8 kg
             Total In:
                                                                  1,127 mL
                                                                    804 mL
   PO:
                                                                    240 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    887 mL
                                                                    624 mL
   Blood products:
   Total out:
                                                                  4,890 mL
                                                                  1,600 mL
   Urine:
                                                                  4,890 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,763 mL
                                                                   -796 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   GENERAL: extremely pleasant elderly  female, alert, responsive, NAD
   HEENT: Normocephalic, atraumatic. No scleral icterus. PERRLA/EOMI. MMM
   slightly dry.
   Neck:  Supple, No LAD. + murmur radiating to bilateral carotids
   CARDIAC: irregular rhythm, tachycardic rate. II/VI SEM @LUSB radiating
   to carotids. JVP= 7 cm
   LUNGS: expiratory wheeze B/L, decreased air movement at b/l bases and
   bibasilar crackles
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. 5/5 strength throughout. [**1-18**]+ reflexes, equal BL. Normal
   coordination. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   193 K/uL
   11.5 g/dL
   109 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.1 mEq/L
   11 mg/dL
   103 mEq/L
   138 mEq/L
   35.2 %
   15.2 K/uL
        [image002.jpg]
                             [**2132-11-21**]  03:21 PM
                             [**2132-11-22**]  04:41 AM
                             [**2132-11-22**]  05:16 PM
                             [**2132-11-23**]  04:52 AM
                             [**2132-11-23**]  10:45 PM
                             [**2132-11-24**]  04:44 AM
                             [**2132-11-24**]  03:06 PM
                            [**2132-11-25**]  04:12 AM
   WBC
   7.1
   21.3
   14.1
   18.7
   15.2
   Hct
   37.0
   34.1
   33.8
   33.8
   35.2
   Plt
   185
   127
   107
   145
   193
   Cr
   0.6
   0.7
   0.7
   0.6
   0.5
   0.5
   0.6
   0.5
   TropT
   <0.01
   Glucose
   108
   121
   128
   113
   133
   100
   106
   109
   Other labs: PT / PTT / INR:17.6/32.5/1.6, CK / CKMB /
   Troponin-T:41//<0.01, Differential-Neuts:79.1 %, Band:11.0 %,
   Lymph:12.7 %, Mono:5.5 %, Eos:2.5 %, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.6 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 11297**] is a 80 year-old with new fevers and hypotension after
   urological manipulation with lithotripsy, likely due to urosepsis from
   disintegration of infected stone, here with atrial fibrillation in the
   120s-140s and difficulty breathing.
   1. Atrial fibrillation- could be due to intense diuresis/ dehydration
   stress as pt is 3L negative O/N.
   -- Increased sotalol from 80mg [**Hospital1 7**] to 120mg [**Hospital1 7**]
   -- IV lopressor 5mg as needed for rate control
   -- can consider IV diltiazem before dilt gtt
   -- correct w/ small boluses of fluid, 250cc NS over 15min at a time
   -- hold further diuresis for now
   -- consider starting dilt gtt if needed
   -- restarted coumadin as per urology recs
   -- ct ASA
   2. Difficulty breathing- could be [**2-18**] volume status, holding lasix for
   now. Can
t do albuterol nebs b/c pt is on beta blocker. Unlikely flash
   pulmn edema, given stable clinical presentation.
   3. Urosepsis
 WBC somewhat increased today, the patient is afebrile ad
   normotensive.  CXR unremarkable.  Pt complaining of dysuria upon
   voiding and a tingling feeling.
   -- U/A and UCx for possible UTI
   -- added Pyridium for urinary analgesia/ sx relief
   -- antibiotic source control with ampicillin and gentamycin (day 5 of a
   7 day total course)
   -- f/u urology recs
   -- f/u UCx if bug not sensitive to [**Last Name (LF) **], [**First Name3 (LF) **] add 3^rd [**Doctor Last Name **]
   -- tylenol for fevers
   -- zofran prn nausea
   4. Electrolyte disturbances
   -- check PO lytes and replete K, Mg and Phos as needed
   6. [**Name (NI) 11388**] pt had SBPs in 180s-200s o/n and previously had home
   anti-HTN meds held d/t hypotension on initial arrival
   -- restarted lisinopril 40mg daily and HCTZ 12.5mg daily (outpatient
   meds)
   -- monitor BP, now in 160s
   ICU Care
   Nutrition:  Regular diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-11-21**] 03:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2132-11-25 09:41:00 Physician Attending Progress Note
Chief Complaint: sepsis s/p lithotripsy and ureteral stent placement
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 y.o. woman with fever and hyypotension following lithotripsy and
   ureteral stent placement
   24 Hour Events:
   c/o dyspnea overnight, improved with diuresis
   Diruesed overngiht - I/0 = 1.1 L/4.8 L
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2132-11-25**] 04:22 AM
   Ampicillin - [**2132-11-25**] 06:19 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2132-11-24**] 07:30 PM
   Metoprolol - [**2132-11-24**] 08:10 PM
   Heparin Sodium (Prophylaxis) - [**2132-11-24**] 09:19 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2132-11-25**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 129 (68 - 129) bpm
   BP: 113/57(84) {104/57(70) - 200/129(151)} mmHg
   RR: 19 (15 - 30) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 66.8 kg (admission): 64.8 kg
             Total In:
                                                                  1,127 mL
                                                                    825 mL
   PO:
                                                                    240 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    887 mL
                                                                    645 mL
   Blood products:
   Total out:
                                                                  4,890 mL
                                                                  1,600 mL
   Urine:
                                                                  4,890 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,763 mL
                                                                   -775 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases, clear partially with deep breathing)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x 3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.5 g/dL
   193 K/uL
   109 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.1 mEq/L
   11 mg/dL
   103 mEq/L
   138 mEq/L
   35.2 %
   15.2 K/uL
        [image002.jpg]
                             [**2132-11-21**]  03:21 PM
                             [**2132-11-22**]  04:41 AM
                             [**2132-11-22**]  05:16 PM
                             [**2132-11-23**]  04:52 AM
                             [**2132-11-23**]  10:45 PM
                             [**2132-11-24**]  04:44 AM
                             [**2132-11-24**]  03:06 PM
                            [**2132-11-25**]  04:12 AM
   WBC
   7.1
   21.3
   14.1
   18.7
   15.2
   Hct
   37.0
   34.1
   33.8
   33.8
   35.2
   Plt
   185
   127
   107
   145
   193
   Cr
   0.6
   0.7
   0.7
   0.6
   0.5
   0.5
   0.6
   0.5
   TropT
   <0.01
   Glucose
   108
   121
   128
   113
   133
   100
   106
   109
   Other labs: PT / PTT / INR:17.6/32.5/1.6, CK / CKMB /
   Troponin-T:41//<0.01, Differential-Neuts:79.1 %, Band:11.0 %,
   Lymph:12.7 %, Mono:5.5 %, Eos:2.5 %, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.6 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB):  Ectopy improved with stopping dilatiazem
   drip.  Increased sodolol, on po diltiazem. Rate adequately controoled.
   On ASA.
 NEPHROLITHIASIS (KIDNEY STONES): s/p lithotripsy and ureteral stent
   placement.
 SEPSIS WITHOUT ORGAN DYSFUNCTION:  Urosepsis in relation to the
   recent procedure.  On amp/gent.  Follow up on urine culture.  WBC
   trending down.
 DYSPNEA:  Secondary to component of fluid overload, improved with
   aggressive diuresis overnight.  Hold on further diuresis.
 HYPERTENSION:  Restart HCTZ.  Hold on restarting lisinopril for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-11-21**] 03:16 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes